US08609692B2
2,2-dimethyl-7-(trifluoromethoxy)chroman-4-one
Eaton's reagent (225 mL) was heated to 70° C. and 3-methylbut-2-enoic acid (28.1 g, 281 mmol) and 3-(trifluoromethoxy)phenol (25.0 g, 140 mmol) were added. After 30 min, additional 3-methylbut-2-enoic acid (1 equiv, 14 g) was added and heating was continued. After 30 min, additional Eaton's reagent (150 mL) was added and heating was continued for 35 min. The dark solution was cooled and poured into ice. The aqueous suspension was extracted with Et2O (300 mL), and the organic portion was washed with water (75 mL) and brine (50 mL). The organic portion was dried (Na2SO4), filtered, concentrated, and purified by silica gel chromatography (gradient elution, 0-20% EtOAc/hexanes) to give the title compound (11.7 g, 45.0 mmol, 32%) as a white solid. MS (ESI) m/z 261 (M+H)+.

reactant | 3-methylbut-2-enoic acid | 281 mmol, 28.1 g | CC(=CC(=O)O)C | C5H8O2
reactant | 3-(trifluoromethoxy)phenol | 140 mmol, 25.0 g | FC(OC=1C=C(C=CC1)O)(F)F | C7H5F3O2
reactant | 3-methylbut-2-enoic acid | 14 g, 1 equiv | CC(=CC(=O)O)C | C5H8O2
solvent | Eaton's reagent | 150 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
solvent | Eaton's reagent | 225 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | 2,2-dimethyl-7-(trifluoromethoxy)chroman-4-one | 45.0 mmol, 11.7 g, 32% | CC1(OC2=CC(=CC=C2C(C1)=O)OC(F)(F)F)C | C12H11F3O3
